US06818583B1
Diethyl 2-phenylsuccinate (ex 1)
A mixture of 50 g of DL-phenylsuccinic acid (0.257 mol), 90 mL (1.59 mol) of ethanol, 46 mL of toluene and 0.39 g of concentrated H2SO4 was heated to 115° C. An azeotropic mixture of ethanol, toluene and water was distilled over a column of 10 cm. When the distillation stopped the same amounts of ethanol and toluene was added. To obtain a complete conversion this was repeated twice. The resulting oil was distilled at 114° C. (2·10−2 mbar); yield 60.82 g (95%), purity 100%

reactant | DL-phenylsuccinic acid | 0.257 mol, 50 g | C1=CC=C(C=C1)C(CC(=O)O)C(=O)O | C10H10O4
reactant | ethanol | 1.59 mol, 90 mL | C(C)O | C2H6O
reactant | toluene | 46 mL | C1(=CC=CC=C1)C | C7H8
reactant | H2SO4 | 0.39 g | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | Diethyl 2-phenylsuccinate | C1(=CC=CC=C1)C(C(=O)OCC)CC(=O)OCC | C14H18O4
